US06664291B2
4-(3-Bromo-4-methoxyphenoxy)-3,5-dimethyinitrobenzene
To a solution of 3,5-dimethyl-4-(4′-methoxyphenoxy)nitrobenzene (4.0 g) (J. Med. Chem., 38: 703 (1995)) in chloroform (150 ml) were added N-bromosuccinimide (2.6 g) and trifluoroacetic acid (1.1 ml), and the resulting mixture was heated under reflux for 90 min. Additional portions of N-bromosuccinimide (2.6 g) and trifluoroacetic acid (1.1 ml) were added, followed by further heating for 18 h. The reaction was washed with sodium bicarbonate, dried (Na2SO4) and concentrated to afford the title compound of Step A as an orange solid (5.0 g). MS (APCl+) Calc: 351; Found: 352 (M+1).

reactant | 3,5-dimethyl-4-(4′-methoxyphenoxy)nitrobenzene | 4.0 g | CC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)C)[N+](=O)[O-] | C15H15NO4
reactant | N-bromosuccinimide | 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | trifluoroacetic acid | 1.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-bromosuccinimide | 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | trifluoroacetic acid | 1.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-Bromo-4-methoxyphenoxy)-3,5-dimethyinitrobenzene | 5.0 g | BrC=1C=C(OC2=C(C=C(C=C2C)[N+](=O)[O-])C)C=CC1OC | C15H14BrNO4
